US09388189B2
(S)-2-(1-Amino-3-phenoxypropyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-tert-Butyl (1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)-3-phenoxypropyl)carbamate (8 mg, 0.02 mmol) was treated with a solution of hydrochloric acid in dioxane (4M, 109 μl, 0.43 mmol) according to the method described in Preparation 1 to obtain 6 mg (87% yield) of the title compound as a solid. Purity 100%.

reactant | (S)-tert-Butyl (1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)-3-phenoxypropyl)carbamate | 0.02 mmol, 8 mg | O=C1N(C(=NN2C1=CC=C2)[C@H](CCOC2=CC=CC=C2)NC(OC(C)(C)C)=O)C2=CC=CC=C2 | C26H28N4O4
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 0.43 mmol, 4M, 109 μl | O1CCOCC1 | C4H8O2
product | (S)-2-(1-Amino-3-phenoxypropyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 6 mg, 87% yield | N[C@@H](CCOC1=CC=CC=C1)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C21H20N4O2
